### PR TITLE
[stdlib] enumerate permutations

### PR DESCRIPTION
**Pull request by haansn08**
~~Factorial.v:~~
* ~~define `falling_fact`, `rising_fact`.~~
* ~~`falling_fact_fact: falling_fact n n = fact n`~~
* ~~`rising_fact_S: forall x, rising_fact (S n) x = (x + n) * rising_fact n x`~~
* ~~`falling_raising_fact: forall x, n <= S x -> falling_fact n x = rising_fact n (S x-n)`~~
* ~~`rising_fact_fact: rising_fact n 1 = fact n`~~

PeanoNat.v:
* `div2_add_Even_l: Even n -> div2 (n + m) = div2 n + div2 m`

List.v:
* define `insert_nth`.
* `in_singleton: In x [y] -> y = x`
* `firstn_app_le: n <= length l1 -> firstn n (l1 ++ l2) = firstn n l1`
* `firstn_add: firstn (n + m) l = firstn n l ++ (firstn m (skipn n l))`
* `insert_nth_length: length (insert_nth n x l) = S (length l)`
* `insert_nth_cons: insert_nth (S n) x (a :: l) = a :: insert_nth n x l`
* `Add_nil: Add a [] l <-> l = [a]`
* `Add_insert_at: forall l', Add x l l' <-> exists i, i <= length l /\ l' = insert_nth i x l`
* `seq_add_l: seq (n + start) len = map (Nat.add n) (seq start len)`
* `map_ext_seq: (forall j, j < n -> f (j + start) = g (j + start')) -> map f (seq start n) = map g (seq start' n).`

* define `additions`.
*  `Theorem additions_spec x:  forall (l l': list A), Add x l l' <-> In l' (additions x l).`
*  Lemmas `in_additions`, `additions_cons`, `additions_length`.

Permutation.v:
* Define `permutations`.
* `Theorem permutations_spec: forall l l', Permutation l l' <-> In l' (permutations l).`
* `Theorem permutations_fact l: length (permutations l) = fact (length l).`

### CODE REVIEW

**Comment by andres-erbsen** [comment]
Could you explain why lemmas would be a useful addition to the standard library? I can see how I might use `seq_shift_n` and `firstn_le_app`, but I'm not sure I'd expect to need much of this stuff. (Feel free to also share what you're working on when you end up running into this stuff :) ) Thanks!

**Comment by haansn08** [comment]
> Feel free to also share what you're working on when you end up running into this stuff :)

Sure! I just pushed the repo where I took those from [here](https://github.com/haansn08/coq-basic-combinatorics). It's an attempt at enumerating some basic combinatorical objects (I do realize this stuff has already been done using mathcomp, which I should be using...).

To me things like inserting an element in a list at a specific index or the distributivity law for `div2` seem inherently useful, `firstn_add_skipn` is not so obvious, but it arises when you you look at all prefixes of a word (I used it [here](https://github.com/haansn08/coq-basic-combinatorics/blob/main/theories/Dyck.v#L179), Dyck words are well-formed parenthesis expressions).

File: theories/Lists/List.v [hunk 1]
```diff
@@ -2103,6 +2109,14 @@ Section Cutting.
       * rewrite <- app_comm_cons. simpl. f_equal. apply iHk.
   Qed.
 
+  Corollary firstn_le_app n:
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2112]: :+1: I can't think of a great systematic name, but maybe `firstn_app_le` is a little bit better?

File: theories/Lists/List.v [hunk 2]
```diff
@@ -2250,6 +2264,23 @@ Section Cutting.
     - now intros <- %Nat.succ_lt_mono %IHn.
   Qed.
 
+  Lemma firstn_add_skipn (l: list A) (n m : nat):
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2267]: :+1: `firstn_add` based on the principle that names of rewrite rules describe the left-hand sides (as long as the right-hand side is the obvious choice for the left-hand side, which I think it is here).

File: theories/Lists/List.v [hunk 3]
```diff
@@ -2333,6 +2389,15 @@ Section Add.
     | Add_head l : Add a l (a::l)
     | Add_cons x l l' : Add a l l' -> Add a (x::l) (x::l').
 
+  Lemma Add_nil a l: Add a [] l <-> l = [a].
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2392]: :+1:

File: theories/Lists/List.v [hunk 4]
```diff
@@ -2269,6 +2300,31 @@ Section CuttingMap.
   Qed.
 End CuttingMap.
 
+
+(********************************************)
+(** * Inserting an element at some position *)
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2305]: I am not sure we want this to be a definition. Do you expect we'd prove more theory about `insert_at`? If the intended usage is to appear in the `Add` lemma below, might it make more sense to inline it there?

File: theories/Lists/List.v [hunk 5]
```diff
@@ -2682,6 +2764,14 @@ Section NatSeq.
     now rewrite IHlen.
   Qed.
 
+  Lemma seq_shift_n len start n:
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2767]: How about flipping the sides and calling it `seq_add_l`?

File: theories/Lists/List.v [hunk 6]
```diff
@@ -2698,6 +2788,15 @@ Section NatSeq.
         * right. subst. now split; [apply -> Nat.succ_le_mono|].
   Qed.
 
+  Lemma map_ext_seq {X} (f g: nat -> X) n start d:
+    (forall j, start <= j < start + n -> f (d + j) = g j) ->
+    map f (seq (start + d) n) = map g (seq start n).
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2793]: What is the intended use case of this lemma? The name suggests that it would be a specialization of `map_ext` to arbitrary `seq`, but it looks like it's about shifting indices?

File: theories/Arith/Factorial.v
Comment (andres-erbsen) [inline theories/Arith/Factorial.v:1]: I am not sure this file has a future, and without specific justification I would lean against adding to it right now. I agree rising and falling factorials are convenient for combinatorics, but just adding them falls substantially short from catching the standard library up with basics of combinatorics. So perhaps keep these in your combinatorics repo for now, and in the future we could consider a design for combinatorics in the standard library (which I expect would include factorial-like functions).

**Review by andres-erbsen — COMMENTED** [review]
I left some further questions and comments inline.

File: theories/Lists/List.v (hunk 6 above)
Comment (JasonGross) [reply theories/Lists/List.v:2793]: Note that, modulo substitution and arithmetic, this is equivalent to:
```
Lemma map_ext_seq {X} (f g: nat -> X) n m start start': n = m ->
    (forall j, j < n -> f (start + j) = g (start' + j)) ->
    map f (seq start n) = map g (seq start' m).
```

File: theories/Lists/List.v [hunk 7]
```diff
@@ -321,6 +321,12 @@ Section Facts.
   destruct Hin as [Hin|[Hin|Hin]]; [right|left|right]; try apply in_or_app; intuition.
   Qed.
 
+  Lemma in_singleton (x y : A):
```
[the remark this answers is not in the document]
Comment (haansn08) [reply theories/Lists/List.v:324]: That's actually the name I first gave this lemma, but all the lemmas for `In` start with a lowercase `in_`. Are you sure?

File: theories/Lists/List.v (hunk 6 above)
Comment (haansn08) [reply theories/Lists/List.v:2793]: In this case I think we can drop the `n = m`:
```coq
Lemma map_ext_seq {X} (f g: nat -> X) n start start':
    (forall j, j < n -> f (j + start) = g (j + start')) ->
    map f (seq start n) = map g (seq start' n).
Proof.
  revert start start'. induction n as [|n IHn]; [reflexivity|].
  intros start start' H. cbn; f_equal.
  + apply (H 0), Nat.lt_0_succ.
  + apply IHn. intros j Hj%Nat.succ_lt_mono%H.
    rewrite !Nat.add_succ_r. exact Hj.
Qed.
```

File: theories/Lists/List.v (hunk 4 above)
Comment (haansn08) [reply theories/Lists/List.v:2305]: I feel like inserting an element at some index might be a common use case for lists, so it would be nice if there was some basic theory about it in stdlib.

File: theories/Arith/Factorial.v
Comment (haansn08) [reply theories/Arith/Factorial.v:1]: Ok I will remove them from this PR.

File: theories/Lists/List.v (hunk 7 above)
[the remark this answers is not in the document]
Comment (andres-erbsen) [reply theories/Lists/List.v:324]: Ugh, you're right.

File: theories/Lists/List.v (hunk 4 above)
Comment (andres-erbsen) [reply theories/Lists/List.v:2305]: I also had the intuition that it might a common case, but grepping CI developments I don't actually see a clear use case of this operation for programming. color and stdpp do define an equivalent operation, but the first is not used in code and I couldn't trace for usages of the second through their typeclass-based interface. The lemmas being proven are also rather straightforward from the definition and not clearly aided by it. (There are also many unrelated occurrences of "insert" seem to be about insertion sort or trees). Do you have in mind something that is burdensome to define / implement without this function?

Based on this, I'd suggest not to add this function to stdlib right now: it's not clear that it's useful / beneficial beyond its definition, and I do think users treat inclusion in stdlib as an endorsement. From the perspective of laziness, having the function listed can create a demand for lemmas about it even if factoring code this way is not an overall win.

Comment (haansn08) [reply theories/Lists/List.v:2305]: My use case is to enumerate permutations of a list:
```coq
Definition insert_at i x l :=
  firstn i l ++ [x] ++ skipn i l.

Definition additions x l :=
  map (fun i => insert_at i x l) (seq 0 (S (length l))).

Fixpoint permutations l :=
match l with
| nil => [ nil ]
| x::l' => flat_map (additions x) (permutations l')
end.
```

Comment (andres-erbsen) [reply theories/Lists/List.v:2305]: Ha, this looks pretty compelling :thinking:. For consistency with other list functions we would probably call this `insert_nth` and implement it by recursion on the `nat`, but I am indeed leaning towards including (say unless anyone comes up with a justification why this function would be redundant before Tuesday).

File: theories/Lists/List.v [hunk 8]
```diff
@@ -2682,6 +2764,14 @@ Section NatSeq.
     now rewrite IHlen.
   Qed.
 
+  Lemma seq_add_l len start n:
+    map (Nat.add n) (seq start len) = seq (n + start) len.
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2768]:
```suggestion
     seq (n + start) len = map (Nat.add n) (seq start len).
```

File: theories/Lists/List.v [hunk 9]
```diff
@@ -2682,6 +2764,14 @@ Section NatSeq.
     now rewrite IHlen.
   Qed.
 
+  Lemma seq_add_l len start n:
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2767]:
```suggestion
  Lemma seq_add_l n start len:
```

File: theories/Lists/List.v (hunk 4 above)
Comment (haansn08) [reply theories/Lists/List.v:2305]: Thank you :smile: . If you want to I can also include `additions` and `permutations` (and their related [lemmas](https://github.com/haansn08/coq-basic-combinatorics/blob/main/theories/permutations.v#L134) ) in this PR. I was hesitant to do so, since I did [not yet](https://github.com/haansn08/coq-basic-combinatorics/blob/main/theories/permutations.v#L215) manage to prove the correctness of `permutations` :disappointed:

Comment (haansn08) [reply theories/Lists/List.v:2305]: I could prove it. 🎉️

**Comment by haansn08** [comment]
I now added `additions` and `permutations` to this PR which enumerate the lists which satisfy `Add x l` and `Permutation l` respectively. I also included the result `permutations_fact` showing that there are indeed $n!$ permutations of a list of length $n$.

**Comment by gares** [comment]
Postponing to 8.19 (no review, no CI)
